US05994587
Diphenylphosphine (140 g, 0.75 mol) was charged into a 2-L, 3-neck, round-bottom flask in a glove box under a nitrogen atmosphere. The reactor was connected to a nitrogen manifold. Freshly distilled tetrahydrofuran (400 mL) was added to the mixture and the mixture was cooled to -20° C. Normal butyllithium (1.6 M in hexanes, 468 mL, 0.75 mol) was added over a 2 hour period. The cold bath was removed and the orange solution was warmed to room temperature. After stirring at room temperature for 0.5 hour, (-)-menthyl chloride (129 g, 0.74 mol) was added. The mixture was stirred at room temperature for 21 hours and then heated at reflux for 40 hours. The reaction mixture was cooled to room temperature and quenched with H2O (125 mL). After stirring for 2 hours, the organic layer was separated, washed with H2O (125 mL) and concentrated to an oil. The resulting material was distilled under vacuum until crystal formation was observed in the distillation condenser to give about 130 g of crude NMDPP in the pot.

reactant | Diphenylphosphine | 0.75 mol, 140 g | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | Normal butyllithium | 0.75 mol, 1.6 M, 468 mL | C(CCC)[Li]
reactant | (-)-menthyl chloride | 0.74 mol, 129 g | C1(CC(C(CC1)C(C)C)Cl)C | C10H19Cl
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | NMDPP | about 130 g | C[C@H]1CC[C@@H]([C@@H](C1)P(C2=CC=CC=C2)C3=CC=CC=C3)C(C)C | C22H29P
